US08404652B2
About 50 mg of the hepatic medial lobe prepared in Section (2) described above was weighed into a 13×100 mm screwed Pyrex tube (IWAKI, Catalog No.TST-SCR13-100), and hydrolyzed with 1 ml of 6 N HCl at 110° C. for 20 hours. The hydrolysate thus obtained was combined with 1 ml of 5 M potassium hydroxide, and the solution was filtered through a filter (0.22 μm, MILLIPORE, Catalog No.SLGP-R25LS), and the filtrate was collected. 1 ml of the filtrate thus recovered was combined with 1 ml of distilled water to use as a sample solution in the following procedure. 0, 1, 2 or 4 μl of the hydroxyproline conventional solution (corresponding to 0, 3, 6 or 12 μg of hydroxyproline, respectively) were combined with 2 ml of distilled water and used as conventional solutions. Each of the sample solutions and the conventional solutions was combined with 1.5 g of KCl, 0.25 ml of a 10% aqueous solution of alanine (pH 8.7) and 0.5 ml of a boric acid buffer, and the mixture was allowed to stand at room temperature for 30 minutes. The mixture was combined with 0.5 ml of the chloramine T solution, and allowed to stand for 25 minutes. This mixture was then combined with 1.5 ml of 3.6 M sodium thiosulfate (NACALAITESQUE, Catalog No.320-06) and 2.5 ml of toluene, and then capped and stirred for 5 minutes. After centrifuging the mixture at 1500 rpm for 5 minutes, the upper toluene layer was removed with suction and the remaining lower layer was collected. The solution thus obtained was kept at 100° C. for 30 minutes. The solution was cooled with a running water, combined with 2.5 ml of toluene again and then stirred for 5 minutes. The mixture was centrifuged at 1500 rpm for 5 minutes, and the toluene layer was collected. 1.25 ml of the toluene layer thus obtained was combined with 0.5 ml of the p-dimethylaminobenzaldehyde solution and allowed to stand at room temperature for 30 minutes, and then the mixture was examined for its absorbance at 560 nm. By producing a calibration curve from the values of the hydroxyproline conventional solutions (hydroxyproline 0 μg serving as a blank), the following equation was obtained. Amount of hydroxyproline (μg)=17.416×[(absorbance of sample)−(absorbance of blank)]−0.1619, R2=0.9954

reactant | HCl | 6 N, 1 ml | Cl | ClH
reactant | potassium hydroxide | 5 M, 1 ml | [OH-].[K+]
reactant | water | O | H2O
reactant | p-dimethylaminobenzaldehyde | 0.5 ml | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
product | hydroxyproline | 0 μg | N1[C@H](C(=O)O)C[C@@H](O)C1 | C5H9NO3
